Pulse_voltage_source_U24EC025

vin in 0 PULSE(0 1.8 200ps 100ps 100ps 300ps 800ps)

c1 out 0 100f
*capacitor is connected between out and 0(gound)
r1 in out 2k
*resistor is connected between in and out

.tran 0.5ns 3.5ns
*.tran 20ps 800ps
.control
set hcopydevtype=svg
set color0 = white
set color1 = black
set xbrushwidth = 3
run 
plot v(in)
plot v(out)
plot v(in, out)
plot v(out) v(in) v(in, out)
hardcopy out\pwl_vsource1.svg v(in) v(out) v(in, out)
.endc
.end
