* 90nm_cmos_inverter_dynamic_power_U24EC016
* Lab 8: Dynamic Power Analysis of CMOS Inverter
* Tool: NGSpice

.title 90nm_cmos_inverter_dynamic_power_U24EC016

.include cmos_65nm.txt

* --- Supply ---
Vdd vdd 0 1.2

* --- Input clock pulse ---
* PULSE(V1 V2 Td Tr Tf Pw Period)
Vin in 0 PULSE(0 1.2 0ns 0.1ns 0.1ns 5ns 10ns)

* --- CMOS Inverter (PMOS + NMOS) ---
* Drain Gate Source Bulk ModelName W L
mp1 out in vdd vdd pmos W=1u L=90nm
mn1 out in 0   0   nmos W=500n L=90nm

* --- Load capacitance ---
CL out 0 10f

* --- Transient Analysis ---
* Simulate for 100ns with 10ps step to capture ~10 switching cycles
.tran 0.1ns 50ns

* --- Control Block ---
.control
  set color0 = white
  set color1 = black
  set xbrushwidth = 3
  run

  * Instantaneous power drawn from supply:  P = Vdd * (-I(Vdd))
  * (NGSpice convention: current into positive terminal of Vdd is negative)
  let power  = v(vdd) * (-i(Vdd))
  let p_stat = v(vdd) * i(Vdd)

  * Average dynamic power over steady-state window
  meas tran p_avg AVG power from=5ns to=95ns

  * Plot input and output waveforms
  plot v(in) v(out) title 'CMOS Inverter: Input & Output (Dynamic)'

  * Plot instantaneous power (spikes = dynamic, near-zero = static)
  plot power title 'Instantaneous Power (Dynamic Spikes)'

  * Plot supply current
  plot i(Vdd) title 'Supply Current i(Vdd)'

.endc

.end